US04908363
1.92 g of 1-(4-hydroxy-3,5-di-tert.-butylbenzylideneamino)-2-morpholinoimidazole are dissolved in 30 ml of glacial acetic acid and treated portionwise within 30 minutes with 0.7 g of 90% sodium cyanoborohydride. The reaction mixture is stirred overnight. The solvent is removed by evaporation in a vacuum and the residue is treated with 20 ml of water. Saturated sodium carbonate solution is added up to an alkaline reaction and the mixture is extracted three times with 20 ml of methylene chloride each time. The organic phases are combined, dried over sodium sulfate, filtered and evaporated. The residue is boiled up briefly with 20 ml of n-hexane. After cooling, the crystalline colorless product is removed by filtration and recrystallized from methanol/water. There is obtained 1-(4-hydroxy-3,5-di-tert.-butylbenzylamino)-2-morpholinoimidazole of m.p. 161°-163°.

reactant | 1-(4-hydroxy-3,5-di-tert.-butylbenzylideneamino)-2-morpholinoimidazole | 1.92 g | OC1=C(C=C(C=NN2C(=NC=C2)N2CCOCC2)C=C1C(C)(C)C)C(C)(C)C | C22H32N4O2
reactant | sodium cyanoborohydride | 0.7 g | C(#N)[BH3-].[Na+]
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 1-(4-hydroxy-3,5-di-tert.-butylbenzylamino)-2-morpholinoimidazole | OC1=C(C=C(CNN2C(=NC=C2)N2CCOCC2)C=C1C(C)(C)C)C(C)(C)C | C22H34N4O2
